US04583826
A mixture of 3.5 g of 4'-(trans-4-pentylcyclohexyl)-4-biphenylmethanol and 2.9 g of triphenylphosphine in 150 ml of absolute methylene chloride was placed at -20° C. in a sulphonation flask while gassing with argon and treated portionwise within 10 minutes with 3.8 g of solid tetrabromomethane. Partially undissolved educt thereby dissolved slowly. The mixture was stirred for a further 2 hours while warming to room temperature. The mixture was subsequently concentrated on a rotary evaporator and the crystalline residue was suspended in 300 ml of warm hexane, freed by filtration from precipitated triphenylphosphine oxide (rinsing with hexane) and the filtrate was concentrated. Low-pressure chromatography (0.7 bar) of the residue on silica gel with toluene as the eluant gave 3.39 g (82%) of 4-(bromomethyl)-4'-(trans-4-pentylcyclohexyl)biphenyl as colourless crystals. This material was used in the following step without further purification. Rf value of the product [petroleum ether/ethyl acetate (97:3)]: 0.47.

reactant | 4'-(trans-4-pentylcyclohexyl)-4-biphenylmethanol | 3.5 g | C(CCCC)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)CO | C24H32O
reactant | triphenylphosphine | 2.9 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tetrabromomethane | BrC(Br)(Br)Br | CBr4
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | 4-(bromomethyl)-4'-(trans-4-pentylcyclohexyl)biphenyl | 3.39 g, 82% | BrCC1=CC=C(C=C1)C1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)CCCCC | C24H31Br
